US06268361B1
To a solution of 1-(4-hydroxy)phenoxy-2-(4-methoxy-phenyl-6-methoxynaphthalene (865 mg, 2.32 mmol) in 15 mL of anhydrous N,N-dimethylformamide under N2 was added cesium carbonate (3.0 g, 9.2 mmol). After stirring for 15 minutes, 2-chloroethylpiperidine hydrochloride (540 mg, 2.90 mmol) was added. The resulting mixture was stirred vigorously for 24 hours, then distributed between ethyl acetate/water (200 mL ea.). The layers were separated, and the organic layer was washed several times with water. The organic layer was then dried (sodium sulfate) and concentrated in vacuo to a white solid. The crude free base was dissolved in 20 mL of ethyl acetate and treated with ethyl ether.hydrochloric acid. A precipitate formed that was collected by filtration and dried in vacuo to provide 1.06 g (88%) of 1-[4-[2-(1-piperdinyl)ethoxy]-phenoxy]-2-(4-methoxyphenyl)-6-methoxynaphthalene hydrochloride as a white solid. mp 184-188° C. 1H NMR (DMSO-d6) δ9.91 (bs, 1H), 7.84 (d, J=8.5 Hz, 1H), 7.71 (d, J=9.2 Hz, 1H), 7.61 (d, J=8.5 Hz, 1H), 7.54 (d, J=8.8 Hz, 2H), 7.45 (d, J=2.2 Hz, 1H), 7.15 (dd, J=9.2, 2.2 Hz, 1H), 6.93 (d, J=8.8 Hz, 2H), 6.82 (d, J=9.1 Hz, 2H), 6.61 (d, J=9.1 Hz, 2H), 4.21 (m, 2H), 3.89 (s, 3H), 3.75 (s, 3H), 3.45-3.33 (m, 4H), 2.92 (m, 2H), 1.80-1.63 (m, 5H), 1.35 (m, 1H). FD mass spec: 483. Anal. Calcd. for C31H33NO4.1.0 HCl: C, 71.60; H, 6.59; N, 2.69. Found: C, 71.77; H, 6.66; N, 2.79.

reactant | 4-methoxy-phenyl-6-methoxynaphthalene | 2.32 mmol, 865 mg | COC1=CC=C(C=C1)C1=CC=CC2=CC(=CC=C12)OC | C18H16O2
reactant | cesium carbonate | 9.2 mmol, 3.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloroethylpiperidine hydrochloride | 2.90 mmol, 540 mg | Cl.ClCCN1CCCCC1
reactant | ethyl acetate water | 200 mL | C(C)(=O)OCC.O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1-[4-[2-(1-piperdinyl)ethoxy]-phenoxy]-2-(4-methoxyphenyl)-6-methoxynaphthalene hydrochloride | 1.06 g, 88% | Cl.N1(CCCCC1)CCOC1=CC=C(OC2=C(C=CC3=CC(=CC=C23)OC)C2=CC=C(C=C2)OC)C=C1 | InChI=1S/C31H33NO4.ClH/c1-33-25-9-6-23(7-10-25)29-16-8-24-22-28(34-2)15-17-30(24)31(29)36-27-13-11-26(12-14-27)35-21-20-32-18-4-3-5-19-32;/h6-17,22H,3-5,18-21H2,1-2H3;1H
